US06414153B1
2-Chloronicotinic acid (10 g) was combined with 3,5-dichloroaniline (15 g) in 150 mL acetic acid and heated at reflux for 4 hr. Upon cooling, a white solid formed which was collected by filtration, washed with acetic acid, water, and dried to give 17.6 g of 2-(3,5-dichlorophenylamino)nicotinic acid.

reactant | 2-Chloronicotinic acid | 10 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 3,5-dichloroaniline | 15 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 2-(3,5-dichlorophenylamino)nicotinic acid | 17.6 g | ClC=1C=C(C=C(C1)Cl)NC1=C(C(=O)O)C=CC=N1 | C12H8Cl2N2O2
